US05635510
22.1 Synthesis of 3-cyano-3-phenyl-pentanedioic acid diethyl ester
Combined phenylacetonitrile (5.85 g, 50.0 mmol) and THF (30 mL). Cooled in a dry-ice/acetone bath. Added dropwise, sodium bis-(trimethylsilyl)amide (100 mL, 1.0M in THF, 100 mmol, 2 eq.). After the addition was complete, allowed to warm to ambient temperature. Cooled in a dry-ice/acetone bath. Added dropwise, ethyl bromoacetate (11 mL, 99 mmol). After the addition was complete, warmed to ambient temperature and stir for 3 h. Partitioned the reaction mixture between diethyl ether (200 mL) and water (200 mL). The organic layer was extracted with H2O (3×150 mL), 1N HCl (2×100 mL), 5% NaHCO3 (2×100 mL), and brine (1×150 mL). Dried over MgSO4, filtered, and concentrated in vacuo to obtain a residue. Chromatographed on silica gel eluting with 20% ethyl acetate in hexane to obtain the title compound:

reactant | phenylacetonitrile | 50.0 mmol, 5.85 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | sodium bis-(trimethylsilyl)amide | 100 mmol, 1.0M, 100 mL, 2 eq. | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | ethyl bromoacetate | 99 mmol, 11 mL | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-cyano-3-phenyl-pentanedioic acid diethyl ester | C(C)OC(CC(CC(=O)OCC)(C1=CC=CC=C1)C#N)=O | C16H19NO4
